US06803431B1
4.1. Preparation of 1,3-didodecyl-5-(2-hydroxyethyl)-1,3,5-triazacyclohexane
48 g of dodecylamine (259 mmol) and 1.7 ml of ethanolamine (29 mmol) were dissolved in 100 ml of ethanol, after which 8.6 g of paraformaldehyde (287 mmol) were added and the mixture was stirred. The turbidity caused by 1,3,5-tridodecyl-1,3,5-triazacyclohexane was redissolved every now and again by addition of ether. After about 1 day, all the paraformaldehyde had dissolved. The solvent was then removed on a rotary evaporator, the residue was dissolved in a little toluene and the product was then again freed of solvent under reduced pressure. This left 55 g of a viscous colorless product which, according to NMR spectroscopy, consisted of about 75 mol % of 1,3,5-tridodecyl-1,3,5-triazacyclohexane and 25 mol % of 1,3-didodecyl-5-(2-hydroxyethyl)-1,3,5-triazacyclohexane and a little toluene.

reactant | dodecylamine | 259 mmol, 48 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ethanolamine | 29 mmol, 1.7 ml | C(O)CN | C2H7NO
reactant | paraformaldehyde | 287 mmol, 8.6 g | C=O | CH2O
reactant | 1,3,5-tridodecyl-1,3,5-triazacyclohexane | C(CCCCCCCCCCC)N1CN(CN(C1)CCCCCCCCCCCC)CCCCCCCCCCCC | C39H81N3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1,3-didodecyl-5-(2-hydroxyethyl)-1,3,5-triazacyclohexane | C(CCCCCCCCCCC)N1CN(CN(C1)CCO)CCCCCCCCCCCC | C29H61N3O
